US04414390
5-(α-bromobutyryl)-8-methoxy-3,4-dihydrocarbostyril (5 g), 2-aminopyridine (4.33 g) and acetonitrile (20 ml) were reacted by refluxing for 6 hours. The reaction mixture was concentrated to dryness and the residue was crystallized by the addition of water. The crystals were collected by filtration and washed with water. The crystals were dissolved in acetone and the solution was adjusted to pH of about 1 to 2 by the addition of 48% hydrobromic acid. Crystals which formed were collected by filtration. The crude crystals thus obtained were recrystallized from methanol-ether to give 3.73 g of 5-(3-ethylimidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril monohydrobromide.

reactant | 5-(α-bromobutyryl)-8-methoxy-3,4-dihydrocarbostyril | 5 g | BrC(C(=O)C1=C2CCC(NC2=C(C=C1)OC)=O)CC | C14H16BrNO3
reactant | 2-aminopyridine | 4.33 g | NC1=NC=CC=C1 | C5H6N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-(3-ethylimidazo[1,2-a]pyridine-2-yl)-8-methoxy-3,4-dihydrocarbostyril monohydrobromide | 3.73 g | Br.C(C)C1=C(N=C2N1C=CC=C2)C2=C1CCC(NC1=C(C=C2)OC)=O | InChI=1S/C19H19N3O2.BrH/c1-3-14-18(20-16-6-4-5-11-22(14)16)12-7-9-15(24-2)19-13(12)8-10-17(23)21-19;/h4-7,9,11H,3,8,10H2,1-2H3,(H,21,23);1H
